US08106196B2
Preparation of ethyl 2-(furan-2-yl)-4-(4-fluorophenyl)-6-methyl-1,4-dihyropyrimidin-5-carboxylate
According to the process of Example 1, except that the 2-thienylformamidine hydrochloride, 2-chloro-4-fluorobenzaldehyde and methyl acetoacetate were replaced by 2-furylformamidine hydrochloride, 4-fluorobenzaldehyde and ethyl acetoacetate, respectively, and 0.21 g of a pale yellow particulates were obtained (yield: 29%); 1H-NMR (400 MHz, CDCl3-d1) δ 7.47-7.46 (d, 1H, J=1.2 Hz, ArH) 7.36-7.32 (t, 2H, J=8.8 Hz, ArH); 7.11 (s, 1H, ArH); 6.98-6.94 (t, 2H, J=8.8 Hz, ArH); 6.52-6.51 (q, 1H, J=1.4 Hz, ArH); 5.69 (s, 1H, CH); 4.12-4.10 (q, 2H, J=7.2 Hz, CH2); 1.21-1.18 (t, 3H, J=7.6 Hz, CH3). MS (EI) 328.1 (M+).

reactant | 2-thienylformamidine hydrochloride | Cl.S1C(=CC=C1)C(=N)N
reactant | 2-chloro-4-fluorobenzaldehyde | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 2-furylformamidine hydrochloride | Cl.O1C(=CC=C1)C(=N)N
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
product | ethyl 2-(furan-2-yl)-4-(4-fluorophenyl)-6-methyl-1,4-dihyropyrimidin-5-carboxylate | yield: 29% | O1C(=CC=C1)C=1NC(=C(C(N1)C1=CC=C(C=C1)F)C(=O)OCC)C | C18H17FN2O3
